Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was very sad and I hurt all over"
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
"Patient is a ___ yo female with a no significant PMH, PPHx 
significant for depression, 1 past psychiatric hospitalizations, 
1 suicide attempts, who presented to the ___ ___ via EMS due to 
suicidal ideation with plan. 

Pt reports worsening depression over the past month. Pt endorses 
difficulty with sleep, poor appetite, poor concentration (Pt 
notes she has been skipping ~10% of classes secondary to her 
mood and poor concentration), worthlessness, hopelessness, 
anhedonia, and recurrent thoughts of death. She notes she is 
thinking of suicide every day. Pt reports that she began having 
plan to overdose on medications 1 week ago. She has not thought 
of which specific medications she would take, but she knows that 
she her friend has sleeping pills and if she takes enough, she 
can kill herself. Denies rehearsal. "I feel sad, lonely, and 
helpless." Denies current SI but states her most recent thoughts 
of taking the sleeping pills was this morning. "My heart is in 
pain. I'm sad. I don't want to talk." When asked about reasons 
to live, patient voices that maybe she does not want her parents 
to feel sad. Pt notes she sometimes feels sad and wants to get 
better, but other times she enjoys this sad feeling. Denies AVH, 
paranoia. Regarding mania, she notes that sometimes she will 
have increased goal directed behavior in setting of 2 days of 
decreased need for sleep. She endorsed racing thoughts and rapid 
speech. Denies socioeconomic indiscretion. She notes that 
perhaps she was like this last week. "Sometimes my friends think 
I lose control." 

___ medical ROS was negative
.
.
.
COLLATERAL:
#EMS Report: "Pt reports increasing depression and insomnia x2 
weeks. Sts she had suicidal thoughts two or three days ago, but 
didn't act on them. Pt endorses bilat carpal parasthesia. Pt 
also reports general body pn, but could not be more specific. Pt 
found seated in bed, w/d, a&ox4, speaking quietly and not 
conversant. Pt was sobbing. No obvious signs of inj. Pt was 
reluctant to go to hospital; did not want to talk, but came 
along willingly. "

#"Collateral from Dr. ___ ___ Pt's 
friend/classmate ___ ___ He is concerned about her, 
states she has not been engaged socially or in school for the 
last several weeks. Pt's friend states that he does not think 
she gets along with her family who live in ___ and that she 
will likely not want to share with them that she is going to an 
inpatient unit. Pt's friend states that she has friends who are 
involved in her life and supportive and that he will visit her 
when she goes to an inpatient unit." 
.
.
.
In the ___, on ___ patient was increasingly agitated, screaming 
and crying at times. Patient required a total of lorazepam 1.25 
mg PO and hydroxyzine 25mg PO on ___. On ___, patient was 
mostly calm and cooperative. Today ___, patient was found 
hiding under the sink, agitated, hitting head against sink and 
wall, refusing oral medications stating that she did not trust 
anyone, security was paged, and patient was given lorazepam 2mg 
IM and haloperidol 5mg IM. She told resident physician today 
that she has been thinking about suicide almost daily but denies 
feeling acutely suicidal.
.
.
.
On interview today, patient reports that she was brought to the 
hospital after she told her friend that she was very sad, having 
chest pain, numbness, SOB, pain all over her body, even talking 
was painful. She reports that she has episodes like this 
sometimes once a week. Patient said that when she told her 
friend about this episode 3 days ago, they called the police who 
took her to the hospital although she said she did not want to 
go. She says that she didn't need help because she would 
probably start to feel better in a few days and hospitals are 
very scary to her. She states the last time she felt this way 
was one week ago. She reports that during that time period she 
feels like she is going to die. To help with the pain and fear, 
she will hit or beat herself. She states that she previously 
would cut herself but hasn't done that since ___ year of 
college. She states that sometimes she drinks alcohol to help 
with the pain. When she does drink she will drink one bottle of 
wine and says she does this once a week. Patient says that 
drinking makes her feel "happy". She also endorses increasing 
her tobacco use recently from 1 pack a week to 2 packs a day but 
is unsure why she is smoking more. Patient denies feeling 
suicidal recently and when asked about her reports of 
suicidality in the ___, patient just answered that she wasn't 
suicidal. She denied that she ever had any plans to harm herself 
or end her life. She struggled with naming reasons to live but 
eventually stated that she wanted to make her parents proud. 
Patient reports that the first time she was feeling very sad was 
in high school when she planned to jump from the ___ floor of a 
building but her parents stopped her. She says that her parents 
thought it was because she didn't want to do school work but she 
reports it was because she was feeling very sad. Patient states 
that they took her to the hospital where she was given 
medication for depression but was not admitted. Patient says 
that during this time she thinks the trigger of her depression 
was due to moving to a new city for her father's work and being 
in a new environment with no friends was lonely. Patient says 
she had another episode of depression in the ___ year of college 
in ___ where she felt sad because a boy who she did not like 
would pursue her despite her stating she was not interested in 
him. She says this boy forced her to kiss him and his was very 
upsetting to her. She states that she wasn't suicidal during 
this time but was cutting herself with a knife to relieve pain 
she was feeling. She says that she never went to hospital for 
this. Patient reports that since coming back to the ___ in 
___ that she is has had poor sleep, getting around ___ 
hours a night but waking up throughout. She endorses nightmares 
about monsters that make her afraid to sleep alone. She says she 
will often startled herself awake at any sound and will look 
around the house. She states that she has some friends her but 
they are not very close friends. Patient endorses feelings of 
hopelessness, guilt, worthlessness, daily fatigue, loss of 
interest, decreased motivation, decreased appetite with an 11 
pound weight loss in one month, poor concentration, and poor 
memory. She reports that she sometimes will only drink water and 
not eat because she isn't hungry. She denies SI/HI. Patient 
reports SOB, chest pain, palpitations, lightheadedness, numbness 
during these episodes that sound like panic attacks.
.
.
.
REVIEW OF SYSTEMS on interview
 -Psychiatric: positive per HPI. denies thoughts of death/SI, 
erratic/risky behavior, increased activity, decreased need for 
sleep, auditory or visual hallucinations, delusions of 
reference, paranoia, thought insertion/broadcasting/withdrawal. 

 -General: endorses: CP, SOB, pain during panic attacks. Denies 
fever, chills, night sweats, headache, changes in vision, 
polyuria, cough, abdominal pain, nausea, vomiting, diarrhea, 
constipation, dysuria, increased urinary frequency, rash, skin 
changes, edema.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Past diagnoses: Depression - Hospitalizations: per OMR 1 
hospitalization after suicide attempt, today denied 
hospitalization after suicide attempt - Psychiatrist: Denies - 
Therapist: Denies - Medication and ECT trials: Denies - 
Self-injury/Suicide attempts: tried to commit suicide via 
jumping out of a window on ___ floor, but was stopped by her 
parents (during high school, age ___, reports SIB through 
cutting in college, last time she cut was ___ years - Harm to 
others: Denies - Trauma: Denies

PAST MEDICAL HISTORY: 
- PCP: doesn't have one - Head trauma: Denies - Seizures: Denies 
- PMHx: Denies 

MEDICATIONS: Denies

ALLERGIES:NKDA 

SUBSTANCE USE HISTORY:
- EtOH: per OMR drinks 1 bottle wine every day or every other 
day, today reported one bottle only once a week. denies h/o of 
withdrawal, detox admissions, h/o seizures - Tobacco: increased 
tobacco use to 2 packs a day from recently just using 1 pack a 
week. she is unsure of why she increased her tobacco use. 
nicotine patch offered. - Cannabis: Denies - Illicits: Denies

FORENSIC HISTORY:
- Arrests: Denies - Convictions and jail terms: Denies - Current 
status (pending charges, probation, parole): Denies

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: 
Pt does not know about family history of psychiatric illness or 
suicide attempts. 
 
Physical Exam:
Physical Exam
GENERAL
HEENT:  Normocephalic, atraumatic. Moist mucous membranes.
Anicteric sclera. 
CV:  Regular rate, normal S1, S2. No murmurs/rubs/gallops. 2+
radial pulses.
RESP: Non-labored. Clear to auscultation bilaterally. No
wheezes/rales/rhonchi.  
ABD: Soft, non-tender, non-distended. Positive bowel sounds
EXT: Warm and well perfused. No gross deformity. No peripheral
edema.
SKIN: No rashes or lesions noted.

 NEUROLOGICAL  
- Cranial nerves: 
  II: PERRLA 4mm to 2mm, brisk bilaterally
  III, IV, VI: extraocular movements intact. no nystagmus.
  V: facial sensation to touch equal in all 3 divisions
bilaterally
  VII: face symmetric  on eye closure and smile
  VIII: hearing normal bilaterally to rubbing fingers
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps, 
hamstrings.

- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. Narrow-based gait, normal
stride and arm-swing. No ataxia noted.  
- Abnormal movements:  No tremor or abnormal movements
appreciated.

 COGNITION 
 - Wakefulness/alertness: 
      - awake and alert
 - Attention:  
      - WORLD with 0 errors
 - Orientation: 
      - did not know hospital name, ___, ___
      - correct date
  - Fund of knowledge: 
      - consistent with education: "___, ___, ___
 - Calculations: 
      -  "7 quarters = 1.75"
 - Abstraction: 
     - Grass is greener on the other side =  says she did not
know what that meant
 - Language: 
      - Native ___ speaker, fluent ___

MENTAL STATUS
 - Appearance/Behavior: 
      - ___ yo Asian female, wearing hospital gown, well groomed,
fair eye contact, calm and cooperative
 - Mood: 
      - "okay"
 - Affect: 
      - incongruent with stated mood, blunted
 - Speech: 
      - normal rate, volume, and tone
 - Thought process: 
      - linear, coherent, goal-oriented, no loose associations
 - Thought Content:
      - Safety: denies SI/HI   
      - Delusions: no evidence of paranoia, etc. 
      - Obsessions/Compulsions: no evidence based on current
encounter
      - Hallucinations: does not appearing to be attending to
internal stimuli
 - Insight: 
      - limited 
- Judgment: 
      - limited
 
Pertinent Results:
___:

Lipids 
Total Cholesterol 223, ___ 69, HDL 57, LDL 152

HbA1c 5.0%

BP ___ = 96/63

 
Brief Hospital Course:
LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

PSYCHIATRIC:
On arrival to the unit patient endorsed insomnia, decreased 
concentration, decreased appetite and associated weight loss, 
feelings of worthlessness and hopelessness. She endorsed a 
history of self injury to relieve emotional "pain" and 
increasing alcohol and tobacco use recently. She reported a 
history of suicidal thoughts and plan to jump from a ___ story 
building at the age of ___. She denies suicidality at time of 
admission. Mental status was notable for dysphoric constricted 
affect, poor insight and limited judgment. 

Diagnosis on presentation is most consistent with major 
depressive disorder, recurrent episode given multiple 
neurovegetative symptoms in the setting of hopelessness, 
worthlessness recently interfering with ability to function 
interpersonally. Patient reports that despite lack of sleep she 
continues to perform adequately in school. 

Patient reports a subjective improvement in mood, ruminative 
thinking, appetite, concentration and insomnia with brief 
hospitalization for psychotherapeutic and psychiatric medication 
treatment. Patient reported reading a book, communicating with 
friends, and is future oriented regarding plan to return to 
school and pursue therapy. Patient endorsed improved ability to 
fall asleep and stay asleep. She denies associated fatigue in 
the early morning. She is interested in continuing to practice 
and develop meditation skills taught on the unit. Objectively, 
patient regularly attended groups and appeared on mental status 
to have an "excellent" mood congruent with a bright/euthymic, 
full, reactive, appropriate affect. Insight is fair as evidenced 
by patient's ability to identify triggers/warning signs and 
their association with feelings. There continues to be a mild 
limitation in association between feelings and behaviors though 
this is improved. Judgment appears fair as evidenced by group 
engagement, intact executive function, improved concentration 
and attention, and ability to engage in discharge planning. 

Future interventions include continuation of mirtazapine for 
sleep and appetite and engagement in intensive outpatient 
therapy. Recommend continued practice/utilization of sleep 
hygiene practices and meditation to maintain sleep quality and 
duration. 

SUBSTANCE USE DISORDERS:
Patient reported recent increase in frequency and quantity of 
alcohol use. Patient received 10mg of diazepam in the ___ and was 
placed on CIWA for 48 on the inpatient unit. Patient was mildly 
tachycardic though did not score on CIWA necessitating treatment 
with diazepam. Patient received alcohol use counseling in 
individual and group settings. Patient attended SMART recovery 
meetings.  Patient reported escalating cigarette use up to two 
packs per day in the setting of increasing intensity of 
depressive symptoms. For patients tobacco use disorder we 
prescribed nicotine replacement therapy and prescribed this on 
discharge. 
 
MEDICAL
None identified
 
PSYCHOSOCIAL
#GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  The patient was polite, 
appropriate, and interactive with select peers. The patient 
reported benefit from learning and practicing meditation. 

#COLLATERAL CONTACTS & FAMILY INVOLVEMENT
#INTERVENTIONS
- Medications: Mirtazapine 15mg QHS for sleep
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: ___ counseling ___ therapy 
and psychopharm
- Behavioral Interventions (e.g. encouraged DBT skills, ect):  
sleep hygiene, cognitive behavioral therapy, meditation 
techniques. 
-Guardianships: none

 
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
neurovegetative symptoms, suicidality, increasing substance use. 
Her static factors noted at that time include history of suicide 
attempt, history of abuse chronic mental illness, history of 
substance use. The modifiable risk factors were also addressed 
at that time include suicidal ideation with/without intent/plan, 
hopelessness, social withdrawal, limited coping skills, poor 
reality testing, no established outpatient treatment, insomnia, 
active substance use/intoxication, polarized thinking. We 
provided education on sleep hygiene, taught and practiced 
mediation, and started medication for mood, insomnia, appetite. 
We coordinated with social supports and BU for safety planning 
on discharge  as well as outpatient treatment.
Finally, the patient is being discharged with many protective 
risk factors, future-oriented viewpoint, life satisfaction, 
reality testing ability,  lack of suicidal ideation, social 
supports.  Overall, based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others.
 
Medications on Admission:
none
 
Discharge Medications:
1.  Mirtazapine 15 mg PO QHS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
2.  Nicotine Patch 14 mg/day TD DAILY PRN cravings 
RX *nicotine 14 mg/24 hour 1 patch once a day Disp #*14 Patch 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder, without psychotic features
nicotine use disorder
unspecified alcohol use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___